US08058461B2
2a): N-Isopropyl-4-methyl-N-[2-(2-methyl-4H-inden-7-yl)ethyl]benzenesulfonamide
At room temperature, to a solution of 11.4 g (34.8 mmol) of 4-methyl-N-[2-(2-methyl-1H-inden-7-yl)ethyl]-benzenesulfonamide in 75 mL of dry DMF, 17.0 g (52.3 mmol) of Cs2CO3 was added, and then 11.9 g (69.8 mmol) of iPrI was added dropwise over a period of 10 minutes. This mixture was then stirred for 3 days at 50° C., and then evaporated via vacuum. To the residue, 200 mL of water and 200 mL of dichloromethane were added. The organic layer was separated, and the aqueous layer was washed with 200 mL of dichloromethane. The combined organic extract was evaporated to dryness. The product was isolated by flash chromatography on silica gel 60 (40-63 um, eluent—dichloromethane). Yield, 10.9 g (85%) of white solid. This product was further used without additional purification. 1H NMR (CDCl3): δ 7.20 (m, 1H, 5-H in indenyl), 7.15 (m, 1H, 6-H in indenyl), 6.95 (m, 1H, 4-H in indenyl), 6.52 (m, 1H, 3-H in indenyl), 4.06 (set, J=6.8 Hz, 1H, CHMe2), 3.13-3.27 (m, 4H, 1,1′-H in indenyl and CH2CH2N), 2.96-3.07 (m, 2H, CH2CH2N), 2.34 (s, 3H, 2-Me in indenyl), 0.99 (d, J=6.8 Hz, 6H, CHMe2). Anal. Calc. for C22H27NO2S: C, 71.51; H, 7.36; N, 3.79%. Found: C, 72.01; H, 7.49; N, 3.33%.

reactant | 4-methyl-N-[2-(2-methyl-1H-inden-7-yl)ethyl]-benzenesulfonamide | 34.8 mmol, 11.4 g | CC1=CC=C(C=C1)S(=O)(=O)NCCC=1C=CC=C2C=C(CC12)C | C19H21NO2S
reactant | Cs2CO3 | 52.3 mmol, 17.0 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | iPrI | 69.8 mmol, 11.9 g | C(C)(C)I | C3H7I
solvent | DMF | 75 mL | CN(C)C=O | C3H7NO
product | N-Isopropyl-4-methyl-N-[2-(2-methyl-4H-inden-7-yl)ethyl]benzenesulfonamide | C(C)(C)N(S(=O)(=O)C1=CC=C(C=C1)C)CCC=1C=CCC2=CC(=CC12)C | C22H27NO2S
